US06194444B1
Production of 5-(N,N-diallylamino)methyl-4-methyl-1,2,3-thiadiazole (Compound No. 222)
To 15 ml of acetone were added 0.50 g (3.0 mmol) of 5-aminomethyl-4-methyl-1,2,3-thiadiazole hydrochloride, 1.10 g (9.0 mmol) of allyl bromide and 2.1 g (15 mmol) of potassium carbonate. The resulting mixture was stirred for 20 hours with heating under reflux. After the reaction was completed, the reaction mixture was filtered to remove the precipitated matter, the solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography using 3:1 mixture of n-hexane and ethyl acetate. Thus, 0.42 g of the objective compound was obtained.

reactant | 5-aminomethyl-4-methyl-1,2,3-thiadiazole hydrochloride | 3.0 mmol, 0.50 g | Cl.NCC1=C(N=NS1)C
reactant | allyl bromide | 9.0 mmol, 1.10 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 15 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 15 ml | CC(=O)C | C3H6O
product | 5-(N,N-diallylamino)methyl-4-methyl-1,2,3-thiadiazole | 0.42 g, Yield: 67% | C(C=C)N(CC=C)CC1=C(N=NS1)C | C10H15N3S
